US08957070B2
N-(1-Hydroxy-2,3,4,9-tetrahydro-1H-carbazol-8-yl)thiophene-2-sulfonamide
To a mixture of N-(1-oxo-2,3,4,9-tetrahydro-1H-carbazol-8-yl)thiophene-2-sulfonamide (0.50 g), tetrahydrofuran (20 mL) and methanol (2 mL) was added sodium borohydride (0.11 g) at 0° C., and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (0.43 g, yield 86%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point>175° C. (decomposition).

reactant | N-(1-oxo-2,3,4,9-tetrahydro-1H-carbazol-8-yl)thiophene-2-sulfonamide | 0.50 g | O=C1CCCC=2C3=CC=CC(=C3NC12)NS(=O)(=O)C=1SC=CC1 | C16H14N2O3S2
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.11 g | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | N-(1-Hydroxy-2,3,4,9-tetrahydro-1H-carbazol-8-yl)thiophene-2-sulfonamide | 0.43 g, yield 86% | OC1CCCC=2C3=CC=CC(=C3NC12)NS(=O)(=O)C=1SC=CC1 | C16H16N2O3S2
